US09034895B2
4-(2-(6-chloro-2-methyl-1H-indol-1-yl)ethyl)morpholine
To a solution of 2-chloroethylmorpholine HCl (134 mg, 0.72 mmol) in 0.3 mL DMSO was added pulverized KOH (102 mg, 1.81 mmol), then after 10 min, a solution of 6-chloro-2-methylindole (100 mg, 0.60 mmol) in 0.2 mL DMSO was added and the reaction stirred at room temperature overnight. Additional 2-chloroethylmorpholine (22 mg, 0.12 mmol) and KOH (17 mg, 0.3 mmol) added and stirred overnight. The reaction mixture was partitioned between H2O and toluene, and the organic extract washed two times with H2O, dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified via silica gel chromatography using a gradient from 0 to 50% ethyl acetate in hexane to give a final yield of 149 mg (0.54 mmol). 1H NMR (500 MHz, CDCl3, δ): 2.44 (s, 3H), 2.49 (t, J=4.4 Hz, 4H), 2.62 (t, J=7.2 Hz, 2H), 3.73 (t, J=4.5 Hz, 4H), 4.11 (t, J=7.2 Hz, 2H), 6.23 (s, 1H), 7.06 (dd, J=8.4 Hz, 1.7 Hz, 1H), 7.28 (s, 1H), 7.42 (d, J=8.3 Hz, 1H). 13C NMR (500 MHz, CDCl3, δ): 12.79, 41.18, 54.11, 57.83, 67.5, 100.30, 108.95, 119.90, 120.53, 126.40, 126.70, 137.06, 137.37. MS m/z 279.3 [M+H]+.

reactant | 2-chloroethylmorpholine HCl | 0.72 mmol, 134 mg | Cl.ClCCN1CCOCC1
reactant | KOH | 1.81 mmol, 102 mg | [OH-].[K+]
reactant | 6-chloro-2-methylindole | 0.60 mmol, 100 mg | ClC1=CC=C2C=C(NC2=C1)C | C9H8ClN
reactant | 2-chloroethylmorpholine | 0.12 mmol, 22 mg | ClCCN1CCOCC1 | C6H12ClNO
reactant | KOH | 0.3 mmol, 17 mg | [OH-].[K+]
solvent | DMSO | 0.3 mL | CS(=O)C | C2H6OS
solvent | DMSO | 0.2 mL | CS(=O)C | C2H6OS
product | 4-(2-(6-chloro-2-methyl-1H-indol-1-yl)ethyl)morpholine | ClC1=CC=C2C=C(N(C2=C1)CCN1CCOCC1)C | C15H19ClN2O
